US04337256
Sodium cyanide (1.89 g) was dissolved in 100 ml of dimethylsulfoxide, and 8.6 g of 1-(4-methylphenyl)-5-chloromethylisoquinoline was added. At room temperature, the mixture was stirred for 1 hour. After the reaction, the reaction mixture was poured into water, extracted with ether, washed in water, and dried. The solvent was distilled off. The residue was recrystallized from ether to afford 7 g of 1-(4-methylphenyl)isoquinoline-5-acetonitrile as prisms having a melting point of 101.7° to 102.1° C.

reactant | Sodium cyanide | 1.89 g | [C-]#N.[Na+]
reactant | 1-(4-methylphenyl)-5-chloromethylisoquinoline | 8.6 g | CC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CCl | C17H14ClN
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-(4-methylphenyl)isoquinoline-5-acetonitrile | 7 g | CC1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC#N | C18H14N2
